US06335448B1
Example 2: Synthesis of (−)-(S)-N-(α-ethylbenzyl)-3-hydroxy-2-phenylquinoline-4-carboxamide, hydrochloride
A suitable reactor vessel was charged with 265 g (1 Mol) of 3-hydroxy-2-phenylquinoline-4-carboxylic acid and ethyl acetate (25 volumes, 5.98 Kg, 6.63 L). The yellow slurry was heated at 30-40° C., and the ethyl acetate distilled off under high vacuum until 15 volumes of solvent remained in the still pot. After vacuum distillation, the yellow slurry was cooled to 20-25° C. Added triethylamine (3.0 Mol, 0.31 Kg, 0.42 L) to afford a dark orange solution. Cooled the solution to −2° C. and slowly added thionyl chloride (1.05 Mol, 0.13 Kg, 0.080 L), over approx. 30 minutes, keeping the solution temperature less than 2° C. After complete addition, the tan slurry was stirred at 25° C. for 1 hour. Added (S)-1-phenyl-n-propylamine (1.1 Mol, 0.16 Kg, 0.17 L) and heated at 65-70° C. for about 3 hours. After 3 hours at 65-70° C., cooled the reaction to 20-25° C. The reactor was charged with ethyl acetate (10 volumes, 2.39 Kg, 2.65 L) and stirred for 5-10 minutes. Added deionized water (15 volumes, 3.98 Kg, 3.98 L). Stirred the reactor contents at ambient temperature for 5 minutes and then separated the phases. Washed the organic layer with 0.5 M aq. citric acid (2×10 volumes, 2×2.8 Kg, 2×2.6 L) followed by deionized water (5 volumes, 1.3 Kg, 1.3 L). At this point, a sample of the organic phase can be removed and assayed by HPLC to determine the presence and content of the freebase form of the desired product. (Note: Typical solution yields range from 80-84% and one can proceed assuming an 80% solution yield). Added toluene (15 volumes, 3.44 Kg, 3.98 L) and concentrated the solution via vacuum distillation until a final reactor volume of 2.2 L was obtained (this represents 7 volumes of solvent remaining based on freebase available). The reactor was charged with IPA (isopropyl amine) (3 volumes based on freebase available), 0.72 Kg, 0.92 L) and the reactor contents warmed to 70° C. to afford a clear solution. To the solution, 58.4 g (2 equiv.) of HCl (g) was bubbled in slowly to precipitate the desired product. The precipitate was cooled to 0° C. and held for about 1 hour. The product was collected by suction filtration. The reaction flask was rinsed with TBME (4 volumes, 0.90 Kg, 1.22 L) and the TBME used as a rinse to wash the filter cake. This washing was repeated with an additional portion of TBME (4 volumes, 0.90 Kg, 1.22 L). The product was dried to a constant weight in a vacuum oven at 70° C./<1.0 mm Hg. The yield of desired product was 301 g, affording a 72% yield of a light beige product: mp=179-180° C., IR (cm−1) 2450, 1627, 1322; 1H NMR (300 MHz, DMSO-d6) δ9.20 (1H, d, J=8.2 Hz), 8.19 (1H, d, J=8.4 Hz), 7.96 (2H, m), 7.71 (1H, m), 7.60 (5H, m), 7.44 (2H, m), 7.37 (2H, m), 7.27 (1H, m), 5.02 (1H, q, J=7.5 Hz), 1.81 (2H, m), 0.94 (3H, t, J=7.2 Hz). 13C NMR (100.625 Mhz) δ169.8, 151.7, 144.8, 143.3, 139.7, 134.9, 131.3, 129.9, 129.8, 128.3, 128.2, 128.0, 126.8, 126.7, 126.5, 125.7, 123.9, 55.0, 29.3, 11.1.

reactant | 3-hydroxy-2-phenylquinoline-4-carboxylic acid | 1 Mol, 265 g | OC=1C(=NC2=CC=CC=C2C1C(=O)O)C1=CC=CC=C1 | C16H11NO3
reactant | triethylamine | 3.0 Mol, 0.42 L, 0.31 Kg | C(C)N(CC)CC | C6H15N
reactant | thionyl chloride | 1.05 Mol, 0.080 L, 0.13 Kg | S(=O)(Cl)Cl | Cl2OS
reactant | (S)-1-phenyl-n-propylamine | 1.1 Mol, 0.17 L, 0.16 Kg | C1(=CC=CC=C1)[C@H](CC)N | C9H13N
reactant | IPA | C(C)(C)N | C3H9N
reactant | HCl | 58.4 g, 2 equiv. | Cl | ClH
solvent | water | 3.98 L, 3.98 Kg | O | H2O
solvent | ethyl acetate | 2.65 L, 2.39 Kg | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 6.63 L, 5.98 Kg | C(C)(=O)OCC | C4H8O2
product | (−)-(S)-N-(α-ethylbenzyl)-3-hydroxy-2-phenylquinoline-4-carboxamide, hydrochloride | 72% yield | Cl.C(C)[C@@H](C1=CC=CC=C1)NC(=O)C1=C(C(=NC2=CC=CC=C12)C1=CC=CC=C1)O | InChI=1S/C25H22N2O2.ClH/c1-2-20(17-11-5-3-6-12-17)27-25(29)22-19-15-9-10-16-21(19)26-23(24(22)28)18-13-7-4-8-14-18;/h3-16,20,28H,2H2,1H3,(H,27,29);1H/t20-;/m0./s1
